US07795267B2
Tetrahydro-3-oxo-1,1-diphenyl-N-[2-(1H-pyrrol-1-yl)ethyl]-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.20 g, 0.68 mmol) was dissolved in tetrahydrofuran (7 mL). 2-Bromoethyl isocyanate (0.07 mL, 0.77 mmol) was added thereto at 0° C., and the mixture was stirred for 1 hour without modification. The reaction solution was concentrated under reduced pressure and dissolved in N-methyl-2-pyrrolidinone (7 mL). 3-Pyrroline (0.21 mL, 2.7 mmol) was added thereto, and the mixture was stirred at 60° C. for 25 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. Then, the organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution, water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) and silica gel column chromatography (hexane:ethyl acetate=8:2 to ethyl acetate) to obtain the title compound (0.21 g, yield 72%) as amorphous.

reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.68 mmol, 0.20 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | 2-Bromoethyl isocyanate | 0.77 mmol, 0.07 mL | BrCCN=C=O | C3H4BrNO
reactant | 3-Pyrroline | 2.7 mmol, 0.21 mL | N1CC=CC1 | C4H7N
reactant | water | O | H2O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | Tetrahydro-3-oxo-1,1-diphenyl-N-[2-(1H-pyrrol-1-yl)ethyl]-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.21 g, yield 72% | O=C1OC(C2N1CCN(C2)C(=O)NCCN2C=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H26N4O3
